US07022689B2
A solution of 12.38 g of N-[2-(2-amino-4-bromo-phenyl)ethyl]-5-cyano-2-methoxybenzenesulfonamide, 3.68 mL of ethyl bromoacetate, and 7.88 mL of N,N-diisopropylethylamine in 100 mL of N,N-dimethylformamide was stirred at 55° C. for 16 hours. To the reaction mixture was added water, and the mixture was extracted with ethyl acetate. The organic layer was washed with water, and brine, and dried over anhydrous magnesium sulfate. The solvent was removed under reduced pressure, and the residue was purified by column chromatography on silica gel (eluent: ethyl acetate-hexane) to give 7.38 g of ethyl [5-bromo-2-[2-(5-cyano-2-methoxybenzenesulfonylamino) ethyl]phenylamino]acetate.

reactant | N-[2-(2-amino-4-bromo-phenyl)ethyl]-5-cyano-2-methoxybenzenesulfonamide | 12.38 g | NC1=C(C=CC(=C1)Br)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)OC | C16H16BrN3O3S
reactant | ethyl bromoacetate | 3.68 mL | BrCC(=O)OCC | C4H7BrO2
reactant | N,N-diisopropylethylamine | 7.88 mL | C(C)(C)N(C(C)C)CC | C8H19N
reactant | water | O | H2O
solvent | N,N-dimethylformamide | 100 mL | CN(C=O)C | C3H7NO
product | ethyl [5-bromo-2-[2-(5-cyano-2-methoxybenzenesulfonylamino) ethyl]phenylamino]acetate | 7.38 g | BrC=1C=CC(=C(C1)NCC(=O)OCC)CCNS(=O)(=O)C1=C(C=CC(=C1)C#N)OC | C20H22BrN3O5S
